US08309581B2
a) 4-{5-Chloro-2-[1-(2,2-dimethyl-propyl)-5,6-difluoro-1H-benzoimidazol-2-yl]-phenoxymethyl}-3-fluoro-benzonitrile
The title compound was prepared in analogy to Example 5, intermediate a, from 5-chloro-2-[1-(2,2-dimethyl-propyl)-5,6-difluoro-1H-benzoimidazol-2-yl]-phenol and 4-bromomethyl-3-fluoro-benzonitrile (CAS Reg. No. 105942-09-4). Light brown solid (95%). MS (Turbo Spray): m/z=483.8 (M+H).

reactant | 5-chloro-2-[1-(2,2-dimethyl-propyl)-5,6-difluoro-1H-benzoimidazol-2-yl]-phenol | ClC=1C=CC(=C(C1)O)C1=NC2=C(N1CC(C)(C)C)C=C(C(=C2)F)F | C18H17ClF2N2O
reactant | 4-bromomethyl-3-fluoro-benzonitrile | BrCC1=C(C=C(C#N)C=C1)F | C8H5BrFN
product | 4-{5-Chloro-2-[1-(2,2-dimethyl-propyl)-5,6-difluoro-1H-benzoimidazol-2-yl]-phenoxymethyl}-3-fluoro-benzonitrile | ClC=1C=CC(=C(OCC2=C(C=C(C#N)C=C2)F)C1)C1=NC2=C(N1CC(C)(C)C)C=C(C(=C2)F)F | C26H21ClF3N3O
